US07511050B2
Step B: 7-bromo-3-hydroxy-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one
The mixture of solution of 3-hydroxy-9-pentyl-6,9-dihydro-5h-[1,2,4]triazolo[4,3-a]purin-5-one (100 mg, 0.381 mmol) and N-bromosuccinimide (204 mg, 1.14 mmol) in THF (2 ml) was stirred in a microwave reactor at 70° C. for 10 min. The reaction mixture was filtrated and the filtrate was purified by prep LCMS to yield the desired product. LCMS calculated for C11H14BrN6O2 (M+H) 341.0; found: 341.0, 343.0.

reactant | 3-hydroxy-9-pentyl-6,9-dihydro-5h-[1,2,4]triazolo[4,3-a]purin-5-one | 0.381 mmol, 100 mg | OC1=NN=C2N1C(C=1NC=NC1N2CCCCC)=O | C11H14N6O2
reactant | N-bromosuccinimide | 1.14 mmol, 204 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 7-bromo-3-hydroxy-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one | BrC1=NC=2N(C=3N(C(C2N1)=O)C(=NN3)O)CCCCC | C11H13BrN6O2
